US07138414B2
a) N-[4-(N-hydroxycarbamimidoyl)-2-trifluoromethoxyphenyl]acetamide
The mixture consisting of 610 mg of N-(4-cyano-2-trifluoromethoxyphenyl)-acetamide, 15 ml of isopropanol, 255 mg of hydroxylamine hydrochloride and 410 mg of sodium acetate was heated to reflux for 5 hours. After cooling, the insoluble fraction was filtered off, and the filtrate is concentrated and taken up in a little isopropanol, the product was precipitated, filtered off with suction and dried by adding water until the first cloudiness and subsequent stirring.

reactant | N-(4-cyano-2-trifluoromethoxyphenyl)-acetamide | 610 mg | C(#N)C1=CC(=C(C=C1)NC(C)=O)OC(F)(F)F | C10H7F3N2O2
reactant | hydroxylamine hydrochloride | 255 mg | Cl.NO
reactant | sodium acetate | 410 mg | C(C)(=O)[O-].[Na+]
solvent | isopropanol | 15 ml | C(C)(C)O | C3H8O
product | N-[4-(N-hydroxycarbamimidoyl)-2-trifluoromethoxyphenyl]acetamide | ONC(=N)C1=CC(=C(C=C1)NC(C)=O)OC(F)(F)F | C10H10F3N3O3
